US06875788B2
Cyclopentylidene(3-thienyl)acetonitrile
The expected intermediate is obtained in the manner described in General Protocol A starting from 3-thienylacetonitrile and cyclopentanone.

reactant | 3-thienylacetonitrile | S1C=C(C=C1)CC#N | C6H5NS
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
product | Cyclopentylidene(3-thienyl)acetonitrile | C1(CCCC1)=C(C#N)C1=CSC=C1 | C11H11NS
